US07176242B2
Step 3: Ethyl 3-butyl-1-methyl-1H-indole-5-carboxylate
To a mixture of ethyl 3-butyl-1H-indole-5-carboxylate (0.6 g) in methylsulfoxide (10 mL) was added potassium t-butoxide (0.29 g) and iodomethane (2.0 mL). The mixture was stirred at 50° C. for 18H, at which time the mixture was pored into water (50 mL). The solution was extracted with ethyl acetate and the organic extracts washed three times with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 5% ethyl acetate in hexanes as eluent to give 0.294 g of the title compound: 1H NMR (CDCl3) δ 0.953, 1.44, 1.69, 2.77, 3.76, 4.40, 6.87, 7.26, 7.91, 8.35.

reactant | ethyl 3-butyl-1H-indole-5-carboxylate | 0.6 g | C(CCC)C1=CNC2=CC=C(C=C12)C(=O)OCC | C15H19NO2
reactant | potassium t-butoxide | 0.29 g | CC(C)([O-])C.[K+]
reactant | iodomethane | 2.0 mL | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | methylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | Ethyl 3-butyl-1-methyl-1H-indole-5-carboxylate | 0.294 g | C(CCC)C1=CN(C2=CC=C(C=C12)C(=O)OCC)C | C16H21NO2
